US05723467
A solution of 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.048mol) in ethanol (600ml) was added to a solution of pamoic acid (0.048mol) in N,N-dimethylformamide (400ml). The mixture was stirred for 3 hours. The resulting precipitate was filtered off by suction, washed with ethanol and dried, yielding 31 g (81%) of 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one 4,4'-methylenebis[3-hydroxy-2-naphthalenecarboxylate](1:1); mp. 269.2° C.

reactant | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.048mol | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3)C)C=C1 | C23H27FN4O2
reactant | pamoic acid | 0.048mol | C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | C23H16O6
solvent | ethanol | 600ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 400ml | CN(C=O)C | C3H7NO
product | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one 4,4'-methylenebis[3-hydroxy-2-naphthalenecarboxylate] | 31 g, 81% | C(C1=C(C(=CC2=CC=CC=C12)C(=O)O)O)C1=C(C(=CC2=CC=CC=C12)C(=O)O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3)C)C=C1 | InChI=1S/C23H27FN4O2.C23H16O6/c1-15-18(23(29)28-10-3-2-4-21(28)25-15)9-13-27-11-7-16(8-12-27)22-19-6-5-17(24)14-20(19)30-26-22;24-20-16(14-7-3-1-5-12(14)9-18(20)22(26)27)11-17-15-8-4-2-6-13(15)10-19(21(17)25)23(28)29/h5-6,14,16H,2-4,7-13H2,1H3;1-10,24-25H,11H2,(H,26,27)(H,28,29)
